* varactor_nltl_12cells_50ohm
* Varactor-loaded NLTL 4->8->12 bench design track.
* role=discovery; source_only=True; direct_100=False; direct_150=False
.option method=gear maxord=2 reltol=2e-4 abstol=1e-12 vntol=1e-6 chgtol=1e-16 itl4=200
.model DVAR D(Is=1e-15 Rs=0.85 Cjo=2.62748438751e-10 Vj=0.75 M=0.5 Bv=18 Ibv=1e-06)
Vbias vb 0 DC 4
Vsrc src 0 SIN(0 2 50000000)
Rsrc src n0 50
Rload n12 0 50
Cfixed0 n0 0 2.29183118052e-11
Dvar0 n0 vb DVAR
Rbleed0 n0 0 200000
Rser1 n0 ns1 0.0933333333333
Lser1 ns1 n1 3.18309886184e-07
Cfixed1 n1 0 2.29183118052e-11
Dvar1 n1 vb DVAR
Rbleed1 n1 0 200000
Rser2 n1 ns2 0.0933333333333
Lser2 ns2 n2 3.18309886184e-07
Cfixed2 n2 0 2.29183118052e-11
Dvar2 n2 vb DVAR
Rbleed2 n2 0 200000
Rser3 n2 ns3 0.0933333333333
Lser3 ns3 n3 3.18309886184e-07
Cfixed3 n3 0 2.29183118052e-11
Dvar3 n3 vb DVAR
Rbleed3 n3 0 200000
Rser4 n3 ns4 0.0933333333333
Lser4 ns4 n4 3.18309886184e-07
Cfixed4 n4 0 2.29183118052e-11
Dvar4 n4 vb DVAR
Rbleed4 n4 0 200000
Rser5 n4 ns5 0.0933333333333
Lser5 ns5 n5 3.18309886184e-07
Cfixed5 n5 0 2.29183118052e-11
Dvar5 n5 vb DVAR
Rbleed5 n5 0 200000
Rser6 n5 ns6 0.0933333333333
Lser6 ns6 n6 3.18309886184e-07
Cfixed6 n6 0 2.29183118052e-11
Dvar6 n6 vb DVAR
Rbleed6 n6 0 200000
Rser7 n6 ns7 0.0933333333333
Lser7 ns7 n7 3.18309886184e-07
Cfixed7 n7 0 2.29183118052e-11
Dvar7 n7 vb DVAR
Rbleed7 n7 0 200000
Rser8 n7 ns8 0.0933333333333
Lser8 ns8 n8 3.18309886184e-07
Cfixed8 n8 0 2.29183118052e-11
Dvar8 n8 vb DVAR
Rbleed8 n8 0 200000
Rser9 n8 ns9 0.0933333333333
Lser9 ns9 n9 3.18309886184e-07
Cfixed9 n9 0 2.29183118052e-11
Dvar9 n9 vb DVAR
Rbleed9 n9 0 200000
Rser10 n9 ns10 0.0933333333333
Lser10 ns10 n10 3.18309886184e-07
Cfixed10 n10 0 2.29183118052e-11
Dvar10 n10 vb DVAR
Rbleed10 n10 0 200000
Rser11 n10 ns11 0.0933333333333
Lser11 ns11 n11 3.18309886184e-07
Cfixed11 n11 0 2.29183118052e-11
Dvar11 n11 vb DVAR
Rbleed11 n11 0 200000
Rser12 n11 ns12 0.0933333333333
Lser12 ns12 n12 3.18309886184e-07
Cfixed12 n12 0 2.29183118052e-11
Dvar12 n12 vb DVAR
Rbleed12 n12 0 200000
.control
set filetype=ascii
set wr_singlescale
set wr_vecnames
tran 5e-10 5.5e-07 0 2e-10
wrdata varactor_nltl_12cells_50ohm_tran.csv time v(n0) v(n6) v(n12) i(Vsrc) i(Vbias)
.endc
.end
